US05143643
160 g of methyl D-lactate and 524 g of 1-iodopropane were mixed in a four-necked flask, and 471 g of freshly prepared Ag2O was gradually added. Then, the mixture was stirred at 60°-65° C. for 1 hour and subjected to filtration. The filtrated product was washed with ether and the ether was distilled off from the filtrate, which was then distilled in vacuo to obtain 161 g of methyl 2-propoxypropionate.

reactant | methyl D-lactate | 160 g | C([C@H](O)C)(=O)OC | C4H8O3
reactant | 1-iodopropane | 524 g | ICCC | C3H7I
product | methyl 2-propoxypropionate | 161 g | C(CC)OC(C(=O)OC)C | C7H14O3
